US05521179
2-(2-Oxo-6-phenyl-3-pyruvoylamino-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide.
2-(3-Amino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide was subjected to procedure similar to Acylation Method B, but substituting: dichloromethane for tetrahydrofuran, 4-dimethylaminopyridine for 1-hydroxybenzotriazole, and pyruvic acid for 4-methoxyphenyl acetic acid. After 72 h, dichloromethane was added and the mixture was washed (water, brine), dried (magnesium sulfate) and evaporated. Chromatography, eluting with dichloromethane:methanol (gradient, 99.5:0.5, 99:1), gave the title compound as a pale yellow solid; TLC: Rf =0.44, dichloromethane:methanol (98:2); MS: m/z=466(M+1).

reactant | 2-(3-Amino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | NC=1C(N(C(=CC1)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O | C19H20F3N3O3
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | pyruvic acid | C(C(=O)C)(=O)O | C3H4O3
reactant | 4-methoxyphenyl acetic acid | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(2-Oxo-6-phenyl-3-pyruvoylamino-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | O=C1N(C(=CC=C1NC(C(=O)C)=O)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)=O)C(C)C | C22H22F3N3O5
